US07655666B2
To a solution of 2-amino-5-(2,5-dimethyl-2H-pyrazol-3-yl)-4-trifluoromethyl-benzoic acid methyl ester (610 mg, 1.95 mmol) in DCM (20 mL) containing Et3N (1.1 mL, 4 equiv) was added (CCl3O)2CO (294 mg, 0.5 equiv) portionwise. The mixture was stirred at r.t. for 2 h and was the solvent was removed in vacuo. The resulting paste was dissolved in THF (20 mL) and CH3SO2NHNH2 (214 mg, 1 equiv) was added. The mixture was stirred at r.t. for 1 h and an aqueous solution of NaOH (1N, 1.95 mL, 1 equiv) was added. The mixture was stirred at r.t. for 2 h. The mixture was then poured into water and the aqueous phase was extracted with AcOEt. The aqueous layer was acidified to pH 3 by addition of 2N aq HCl and then extracted with AcOEt. The organic phases were combined, dried (Na2SO4) and concentrated in vacuo to afford a brown syrup. The crude product was purified by flash chromatography (EtOAc/hexanes (25:75) to EtOAc) to furnish N-[6-(2,5-dimethyl-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (213 mg, 26%) as a white powder. (ESI-MS: m/z 418.4 [M+H]+, rt 4.30 min). 1H-NMR (DMSO-d6, 400 MHz) 12.1 (s, 1H), 10.38 (s, 1H), 7.91 (s, 1H), 7.64 (s, 1H), 6.08 (s, 1H), 3.47 (s, 3H), 3.16 (s, 3H), 2.17 (s, 3H).

reactant | 2-amino-5-(2,5-dimethyl-2H-pyrazol-3-yl)-4-trifluoromethyl-benzoic acid methyl ester | 1.95 mmol, 610 mg | COC(C1=C(C=C(C(=C1)C=1N(N=C(C1)C)C)C(F)(F)F)N)=O | C14H14F3N3O2
reactant | Et3N | 1.1 mL, 4 equiv | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 214 mg, 1 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 1.95 mL, 1 equiv | [OH-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[6-(2,5-dimethyl-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 213 mg, 26% | CN1N=C(C=C1C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O)C | C15H14F3N5O4S
